US04007198
Preparation of 1(or 2 or 4)-(Methylsulfonyl)-s-triazole-3-carboxamide
A mixture of 2.0 g. of 1,2,4-triazole-3-carboxamide and 5.0 g. of methane sulfonic acid anhydride is inserted into an oil bath preheated to about 150° C. and kept at this temperature for 30 minutes. The liquid product obtained is allowed to cool for 10 minutes then triturated with ether to give a thick opaque gum. This is then triturated with dry acetonitrile to obtain a colorless solid which is collected, washed with additional acetonitrile and dried in vacuo for 4 hours, m.p. 172°-180° C.

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | methane sulfonic acid anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | (Methylsulfonyl)-s-triazole-3-carboxamide | CS(=O)(=O)C1=NC(=NN1)C(=O)N | C4H6N4O3S
